US05047402
A mixture of 3-methoxy-4-[1-propyl-5-(1-propyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-benzoic acid (0.3 g), 4-dimethylaminopyridine (0.095 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.149 g), and 2-methylbenzenesulfonamide (0.122 g) was dissolved in methylene chloride (10 ml), and the solution was stirred under a nitrogen atmosphere for 18 h. The mixture was poured into 1M hydrochloric acid, extracted with ethyl acetate (twice), and the extract washed with 1M hydrochloric acid, water, and brine. The dried (MgSO4) solution was evaporated and the residue precipated from a mixture of methanol and lM hydrochloric acid to give 3-methoxy-N-(2-methylphenylsulfonyl)-4-[1-propyl-5-(1-propyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-benzamide (0.38 g, 95%) as an off-white solid; mp 98-115°.

reactant | 3-methoxy-4-[1-propyl-5-(1-propyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-benzoic acid | 0.3 g | COC=1C=C(C(=O)O)C=CC1CC1=CN(C2=CC=C(C=C12)CC1C(N(CC1)CCC)=O)CCC | C28H34N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.149 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methylbenzenesulfonamide | 0.122 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
reactant | hydrochloric acid | 1M | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.095 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxy-N-(2-methylphenylsulfonyl)-4-[1-propyl-5-(1-propyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-benzamide | 0.38 g, 95% | COC=1C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=CC1CC1=CN(C2=CC=C(C=C12)CC1C(N(CC1)CCC)=O)CCC | C35H41N3O5S
